US04371644
2,2-bis{4-[2-hydroxy-3-(2-hydroxymethyl-7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propoxy]phenyl}propane (Compound No. 161)
To 80 ml of n-butanol were added 10.0 g of 2-hydroxymethyl-7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]decane and 6.2 g of 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane and the mixture was refluxed for 3 days. After completion of the reaction, the solvent was removed from the reaction mixture by evaporation under reduced pressure and ethyl acetate was added to the residue. The ethyl acetate solution was washed with water and dried over anhydrous magnesium sulphate. The residue obtained by removing the solvent, by evaporation under reduced pressure, from the ethyl acetate solution was purified by column chromatography through silica gel eluted with a 20:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine. The desired Compound No. 161 was obtained in the form of a vitreous solid having an Rf value of 0.45 on thin-layer chromatography on silica gel developed with a 20:1:1 by volume mixture of ethyl acetate, ethanol and triethylamine.

reactant | n-butanol | 80 ml | C(CCC)O | C4H10O
reactant | 2-hydroxymethyl-7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]decane | 10.0 g | OCC1OC2(OC1)CC(NC(C2)(C)C)(C)C | C12H23NO3
reactant | 2,2-bis[p-(2,3-epoxypropoxy)phenyl]propane | 6.2 g | O1C(COC2=CC=C(C=C2)C(C)(C)C2=CC=C(C=C2)OCC2CO2)C1 | C21H24O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,2-bis{4-[2-hydroxy-3-(2-hydroxymethyl-7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propoxy]phenyl}propane | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(CC2(OCC(O2)CO)CC1(C)C)(C)C)O)CN1C(CC2(OCC(O2)CO)CC1(C)C)(C)C | C45H70N2O10
